US05614535
0.43 g of 3-{1-[3-(4-tert-butoxycarbonylaminomethylphenyl)-2-oxo-5-oxazolidinylcarbonyl]-4-piperazinyl}propionic acid, acetate, is stirred in 30 ml of ethereal HCl solution at room temperature. The precipitate formed is filtered off with suction, washed with a little ether and dried. 3-{1-[3-(4-aminomethylphenyl)-2-oxo-5-oxazolidinylcarbonyl]-4-piperazinyl}propionic acid, dihydrochloride, is obtained, m.p. 184°-186°.

reactant | 3-{1-[3-(4-tert-butoxycarbonylaminomethylphenyl)-2-oxo-5-oxazolidinylcarbonyl]-4-piperazinyl}propionic acid | 0.43 g | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)N1C(OC(C1)C(=O)N1CCN(CC1)CCC(=O)O)=O | C23H32N4O7
reactant | acetate | C(C)(=O)[O-]
reactant | HCl | 30 ml | Cl | ClH
product | 3-{1-[3-(4-aminomethylphenyl)-2-oxo-5-oxazolidinylcarbonyl]-4-piperazinyl}propionic acid, dihydrochloride | Cl.Cl.NCC1=CC=C(C=C1)N1C(OC(C1)C(=O)N1CCN(CC1)CCC(=O)O)=O | InChI=1S/C18H24N4O5.2ClH/c19-11-13-1-3-14(4-2-13)22-12-15(27-18(22)26)17(25)21-9-7-20(8-10-21)6-5-16(23)24;;/h1-4,15H,5-12,19H2,(H,23,24);2*1H
